US05229516
A. 1,3,4,9-Tetrahydro-1,1-dimethyl-6-(phenylmethoxy)pyrano[3,4-b]indole
A mixture consisting of 5-benzyloxytryptophol (3.2 g, 0.012 mol), acetone (7 mL), benzene (300 mL) and p-toluene sulfonic acid (500 mg) is refluxed for 3.5 hours using a Dean-Stark trap to remove the water. The reaction mixture is cooled to room temperature and washed with 5% sodium bicarbonate (1×200 mL), water (200 mL) and brine (200 mL). It is dried (MgSO4), filtered and concentrated to give 5.0 g product as thick oil. The crude product is flash chromatographed with 15% ethyl acetate/hexane as an eluent to afford 2.5 g product, m.p. 128°-129° C.

reactant | 5-benzyloxytryptophol | 0.012 mol, 3.2 g | C1=CC=C(C=C1)COC2=CC3=C(C=C2)NC=C3CCO | C17H17NO2
reactant | acetone | 7 mL | CC(=O)C | C3H6O
reactant | p-toluene sulfonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | 1,3,4,9-Tetrahydro-1,1-dimethyl-6-(phenylmethoxy)pyrano[3,4-b]indole | 5.0 g | CC1(OCCC2=C1NC1=CC=C(C=C21)OCC2=CC=CC=C2)C | C20H21NO2
